US08709615B2
4-Chloro-2-phenylpyridine (14 g, 73.8 mmol) and potassium phosphate (51.0 g, 221 mmol) were dissolved in 300 mL of toluene and 30 mL of water. The reaction was purged with nitrogen for 20 minutes and then 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane (16.65 mL, 89 mmol), Pd2(dba)3 (1.35 g, 1.48 mmol) and S-Phos (2.42 g, 5.91 mmol) were added. The reaction was brought to reflux for 18 h. After cooling, 100 mL of water was added, separated and the aqueous layer extracted twice with 100 mL of ethyl acetate. The organic layers were passed through a plug of silica gel, eluting with DCM. After evaporation of the solvent, the crude product was subjected to column chromatography (SiO2, 5% EtOAc in hexane to 10% EtOAc in hexane) to get 13.5 g (90%) of 2-phenyl-4-(prop-1-en-2-yl)pyridine.

reactant | 4-Chloro-2-phenylpyridine | 73.8 mmol, 14 g | ClC1=CC(=NC=C1)C1=CC=CC=C1 | C11H8ClN
reactant | potassium phosphate | 221 mmol, 51.0 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane | 89 mmol, 16.65 mL | CC1(OB(OC1(C)C)C(=C)C)C | C9H17BO2
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 30 mL | O | H2O
catalyst | Pd2(dba)3 | 1.48 mmol, 1.35 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | S-Phos | 5.91 mmol, 2.42 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
solvent | water | 100 mL | O | H2O
product | 2-phenyl-4-(prop-1-en-2-yl)pyridine | 13.5 g, 90% | C1(=CC=CC=C1)C1=NC=CC(=C1)C(=C)C | C14H13N
